Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:5](=[O+:6][C:7]([H:17])([H:18])[H:19])[H:15].[C:1]([C:2]([O:3][C:4]([H:13])([H:14])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],10.153560030116502
[C:1]1([H:8])([H:9])[C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C@:6]1([C:7][H:15])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],33.3427685641998
[C:1](=[O:2])([H:7])[H:9].[C:3](=[C:4]([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10].[H:8][H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],30.286612301721306
[C:3](=[C:4]([C:5]#[N:6])[H:9])([H:7])[H:8].[N:1]#[C:2][H:10]>>[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],76.57324125286378
[C:1]([C:2]([C@@:3]1([H:12])[O:4][C:6]([H:13])([H:14])[C:5]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],31.983288744401086
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C:1]([C@@:2]1([H:9])[O:3][C:4]([H:10])=[C:5]=[C:6]1[H:12])([H:7])([H:8])[H:11],88.1977230189874
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:6]/[C:5](=[N:4]/[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:13])[H:14])([H:11])[H:12],105.781915448841
[O:1]([O:4]/[C:3](=[C:2](/[C:5]#[N:6])[H:8])[H:9])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],32.79478456653728
[N:3](=[C:4](\[C:5]#[N:6])[H:10])\[H:8].[O:1]=[C:2]([H:7])[H:9]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],49.26461495372421
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[O:1]1[C:3](=[C+:2][H:8])[N:4]=[C:5]([H:9])[N:6]1[O-:7],117.529463169184
[O:1]1[C:2]([H:8])([H:9])[C:3]#[C:4][C@@:5]1([O:6][H:7])[H:10]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],5.8093631024758
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[C:2]1([H:7])=[C:4]([H:10])[C:3]1([H:8])[H:9].[O:1]([O:5][H:11])[H:6],121.335179399251
[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8]>>[N-:1]([C:2](=[O:3])[C+:4]([O:5][H:8])[N:6]([H:9])[H:10])[H:7],54.096583793324
[N:1]([C+:2]([N:3]1[O:4][C:5]1=[O:6])[N-:7][H:10])([H:8])[H:9]>>[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9],20.3398757270963
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1](/[C:2](=[C:3](\[C:5](=[O:6])[H:12])[H:10])[H:9])[H:7].[O:4]([H:8])[H:11],62.692786210964
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([N+:7]#[C-:6])([H:16])([H:17])[H:18],112.24618147990499
[C:1]([O:4]/[C:3](=[C:2](/[C:5]#[C:6][H:12])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],57.5950165172104
[N:1](/[C:2](=[C:3](\[C:4][H:10])[C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],35.15412795704561
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([H:11])[C:6]1=[C:7]([H:10])[H:14],84.2571519300875
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3](=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:12])[H:10])([H:7])[H:9].[H:8][H:11],93.8858553003331
[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([N:6]=[C:5]=[C:3]=[O:4])([H:8])[H:9])[H:7],64.62908921831139
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],46.167823495961294
[H:10][H:12].[O:1]=[C:2]([C:3]([C:4](=[C:5]=[O:6])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],51.83326047737741
[N:1](=[C:2](/[C:6]#[N:7])[H:9])\[H:8].[O:3]=[C:4]=[O:5]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],69.94569106557101
[C:1]([C:2]([C:6](=[O:7])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](\[C:4]([H:14])([H:15])[H:16])(=[N:5]\[H:17])[H:13]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],60.35700500731642
[O+:1]#[C:2][C:3]([C:4](=[N-:5])[H:8])([H:6])[H:7]>>[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1,34.2860611267441
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@:4]([O:5][H:12])([H:11])[C:6]1,63.947086231443606
